US06660744B1
A slurry of 1-(1,4-dioxaspiro[4.5]dec-8-yl)-3-[4-(2-pyrimidinyloxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (int BB) (1.22 g, 0.00274 mol) in acetone was cooled to 0° C. and 5 N aqueous hydrochloric acid (15 mL) was added dropwise keeping the temperature less than 5° C. After the addition was complete, the mixture was stirred at ambient temperature for three hours. The solution was filtered through celite and neutralized with a saturated aqueous solution of sodium bicarbonate. The precipitate which formed was filtered, washing with water and dried in vacuo overnight to give 4{-4-amino-3-[4-(2-pyrimidinyloxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl}-cyclohexanone as a white solid (0.937 g, 0.00243 mol): 1H NMR (DMSO-d6, 400 MHz) 8.68 (d, 2H), 8.29 (s, 1H), 7.56 (d, 2H), 7.37 (d, 2H), 7.31 (t, 1H), 6.30-7.20 (bs, 2H), 5.25-5.30 (m, 1H), 2.67-2.75 (m, 2H), 2.24-2.43 (m, 6H).

reactant | 1-(1,4-dioxaspiro[4.5]dec-8-yl)-3-[4-(2-pyrimidinyloxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.00274 mol, 1.22 g | O1CCOC12CCC(CC2)N2N=C(C=1C2=NC=NC1N)C1=CC=C(C=C1)OC1=NC=CC=N1 | C23H23N7O3
reactant | hydrochloric acid | 5 N, 15 mL | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
product | 4{-4-amino-3-[4-(2-pyrimidinyloxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl}-cyclohexanone | 0.00243 mol, 0.937 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=NC=CC=N2)C2CCC(CC2)=O | C21H19N7O2
